US08003796B2
Preparation of 4-isobutylphenyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate
A suspension of 4-(2-methylprop-1-enyl)phenyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate (30 mg, 0.057 mmol) and palladium on carbon (10 wt. %, wet) (20 mg, 0.188 mmol, Aldrich) in MeOH (4.0 mL) and DMF (0.5 mL) was placed under hydrogen (balloon) for 2 hrs and additional palladium on carbon (20 mg) was added. The resulting mixture was continuously stirred under hydrogen (balloon) for 1.5 hrs, diluted with CH2Cl2, filtrated through a pad of CELITE® 545 filter aid and concentrated in vacuo. The residue was purified by preparative HPLC (C18 column; 30-100% methanol in water containing 0.05% trifluoroacetic acid) to give Example 144 (21.4 mg, yellow solid, 71%) upon lyophilization. 1H NMR (500 MHz, CDCl3) 8.10 (d, J=8.25 Hz, 2 H), 7.61 (d, J=8.25 Hz, 2H), 7.38 (d, J=7.70 Hz, 1H), 7.14 (d, J=8.80 Hz, 2H), 7.00 (d, J=8.25 Hz, 2H), 6.56 (d, J=2.20 Hz, 1H), 6.33 (dd, J=7.42, 2.47 Hz, 1H), 4.62-4.74 (m, 1H), 3.89-4.04 (m, 1H), 3.85 (app brs, 1H), 3.85 (app brs, 1H), 3.57 (app brs, 1H), 3.12 (s, 3H), 2.46 (d, J=7.15 Hz, 2H), 2.13 (app brs, 2H), 1.89-1.98 (m, 2H), 1.80-1.89 (m, 1H), 0.90 (d, J=6.60 Hz, 6H). MS (ESI) 525 (M+H).

reactant | 4-(2-methylprop-1-enyl)phenyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | 0.057 mmol, 30 mg | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC1=CC=C(C=C1)C=C(C)C)=O | C28H30N2O6S
catalyst | palladium on carbon | 0.188 mmol, 20 mg | [Pd] | Pd
solvent | MeOH | 4.0 mL | CO | CH4O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-isobutylphenyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC1=CC=C(C=C1)CC(C)C)=O | C28H32N2O6S
